US03973030
To the solution of 11.6 g of 3,4,5-trimethoxyphenylpropiolic acid in 60 ml of tetrahydrofuran, 6.0 g of triethylamine are added while stirring, followed by 60 ml of diethyl ether. The mixture is cooled with ice and to the resulting suspension the solution of 5.35 g of ethyl chloroformate in 30 ml of diethyl ether is added dropwise. The mixture is stirred for 15 minutes at 0°-5°, whereupon the solution of 9.7 g of N-methyl-3,4-dimethoxycinnamylamine in 30 ml of diethyl ether is added dropwise, followed by 50 ml of methylene chloride. The mixture is stirred for 30 minutes at room temperature and washed with N hydrochloric acid, 2N aqueous sodium hydroxide and saturated aqueous sodium chloride, dried and evaporated under reduced pressure, to yield the N-methyl-N-(3,4-dimethoxycinnamyl)-3,4,5-trimethoxyphenylpropiolamide.

reactant | 3,4,5-trimethoxyphenylpropiolic acid | 11.6 g | COC=1C=C(C=C(C1OC)OC)C#CC(=O)O | C12H12O5
reactant | triethylamine | 6.0 g | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 5.35 g | ClC(=O)OCC | C3H5ClO2
reactant | N-methyl-3,4-dimethoxycinnamylamine | 9.7 g | CNCC=CC1=CC(=C(C=C1)OC)OC | C12H17NO2
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
solvent | diethyl ether | 30 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 30 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 60 ml | C(C)OCC | C4H10O
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | N-methyl-N-(3,4-dimethoxycinnamyl)-3,4,5-trimethoxyphenylpropiolamide | CN(C(C#CC1=CC(=C(C(=C1)OC)OC)OC)=O)CC=CC1=CC(=C(C=C1)OC)OC | C24H27NO6
